US06107291
To a solution of 3-Hydroxymethyl-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid tert-butyl ester (0.5 g, 1.25 mmoL) in 6.3 mL dichlormethane was added triethylamine (0.19 mL, 1.38 mmoL) and dimethylaminopyridine (15 mg, 0.125 mmoL). This solution was cooled to 0° C. and acetic anhydride (0.18 ml, 1.88 mmoL) was added in at once. After 5 minutes the reaction was diluted with dichloromethane and washed sequentially with 0.5N HCl, water, and brine. The organic layer was dried over anhydrous magnesium sulfate and filtered. The solvent was removed under reduced pressure to yield 3-Acetoxymethyl-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid tert-butyl ester; MS: (M+H)+ =442, (M+NH4)+ =459.

reactant | 3-Hydroxymethyl-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid tert-butyl ester | 0.5 g | C(C)(C)(C)OC(=O)C1N(CCCCC1CO)S(=O)(=O)C1=CC=C(C=C1)OC | C19H29NO6S
reactant | triethylamine | 0.19 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 15 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | acetic anhydride | 0.18 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichlormethane | 6.3 mL | ClCCl | CH2Cl2
product | 3-Acetoxymethyl-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1N(CCCCC1COC(C)=O)S(=O)(=O)C1=CC=C(C=C1)OC | C21H31NO7S
